US08278343B2
Preparation 65: 3-(4′-Fluoro-biphenyl-4-yloxymethyl)-pyrrolidine-3-carboxylic acid ethyl ester (±)
6M HCl aqueous solution (65 mL) was added to racemic 1-(4-fluoro-benzoyl)-3-(4′-fluoro-biphenyl-4-yloxymethyl)-pyrrolidine-3-carboxylic acid ethyl ester (see Preparation 62) (6.3 g, 13.5 mmol) and the resulting mixture refluxed for 18 hours. The reaction mixture was evaporated to dryness. The resulting crystalline solid was dissolved in ethanol (25 mL), cooled to 0° C. and thionyl chloride added (1.46 mL, 19.81 mmol). The mixture was then heated at reflux for 16 hours. The mixture was partitioned between saturated sodium hydrogen carbonate solution (100 mL) and ethyl acetate (100 mL). The organic layer was separated, washed with water (100 mL), dried over magnesium sulphate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel, eluting with 2% methanol in dichloromethane to afford the title compound as a brown oil (2.5 g, 52%).

reactant | HCl | 6M, 65 mL | Cl | ClH
reactant | racemic 1-(4-fluoro-benzoyl)-3-(4′-fluoro-biphenyl-4-yloxymethyl)-pyrrolidine-3-carboxylic acid ethyl ester | 13.5 mmol, 6.3 g | C(C)OC(=O)C1(CN(CC1)C(C1=CC=C(C=C1)F)=O)COC1=CC=C(C=C1)C1=CC=C(C=C1)F | C27H25F2NO4
product | 3-(4′-Fluoro-biphenyl-4-yloxymethyl)-pyrrolidine-3-carboxylic acid ethyl ester | 2.5 g, 52% | C(C)OC(=O)C1(CNCC1)COC1=CC=C(C=C1)C1=CC=C(C=C1)F | C20H22FNO3
